US04241052
3.8 g of 1-(2-chloroethyl)-3-benzyl-3-(D-galactopyranosyl)urea and 5 g of nitrogen tetroxide gas are treated in the same manner as described in Example 23-(2). 2.8 g of 1-(2-chloroethyl)-1-nitroso-3-benzyl-3-(D-galactopyranosyl)urea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-benzyl-3-(D-galactopyranosyl)urea | 3.8 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC1=CC=CC=C1 | C16H23ClN2O6
reactant | nitrogen tetroxide | 5 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 1-(2-chloroethyl)-1-nitroso-3-benzyl-3-(D-galactopyranosyl)urea | 2.8 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC1=CC=CC=C1)N=O | C16H22ClN3O7
